US06440993B1
b) Preparation of 2-Nitro-3,5-dibromo-4-methylpyridine
2-amino-3,5-dibromo-4-methylpyridine (8 g, 30.0 mmol) was cooled to 10° C., followed by the addition of concentrated sulfuric acid(10 ml). The mixture was stirred, maintaining the temperature at 10° C. for 2 hrs, with the addition of a mixture of 30% hydrogen peroxide in 30% fuming sulfuric acid(25 ml/50 ml). The mixture was allowed to warm to room temperature and stirred for an additional 48 hrs. The reaction was then added to 300 ml of water with cooling and made very slightly basic with dropwise addition of 505 NaOH solution while the temperature was maintained at 20-25° C. The product was extracted using ether(4×150 ml) and dried with MgSO4. The solution was concentrated and purified by flash chromatography(2% MeOH/CH2Cl2) to give the desired product(2.94 g, 33%). 1H NMR (CDCl3): δ 8.45 (s, 1H), 2.68 (s, 3H).

reactant | 2-amino-3,5-dibromo-4-methylpyridine | 30.0 mmol, 8 g | NC1=NC=C(C(=C1Br)C)Br | C6H6Br2N2
reactant | hydrogen peroxide | OO | H2O2
reactant | water | 300 ml | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | sulfuric acid | 25 ml | S(O)(O)(=O)=O | H2O4S
solvent | sulfuric acid | 10 ml | S(O)(O)(=O)=O | H2O4S
product | 2-Nitro-3,5-dibromo-4-methylpyridine | 2.94 g, 33% | [N+](=O)([O-])C1=NC=C(C(=C1Br)C)Br | C6H4Br2N2O2
